US07432258B2
N-{4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-3-biphenylyl}propanamide
To a solution of N-[1-(3′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (70.8 mg, 0.12 mmol) in dichloromethane (1 mL) was added propanoyl chloride (11.5 mg, 0.12 mmol). Triethylamine (50 mg, 0.50 mmol) was added and the resultant mixture was stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure and the residue was purified by Gilson preparative HPLC (Sunfire Prep C18, 30×150 mm, 50 mL/min, A: acetonitrile with 0.1% TFA B: water with 0.1% TFA, A: 30 to 60% over 12 min, UV detection at 214 nm) to give 42.4 mg (56%) of the title compound as off white solid. MS (ES) m/e 625.2 [M+H]+.

reactant | N-[1-(3′-amino-4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.12 mmol, 70.8 mg | NC=1C=C(C=CC1)C1=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C29H30Cl2N4O4
reactant | propanoyl chloride | 0.12 mmol, 11.5 mg | C(CC)(=O)Cl | C3H5ClO
reactant | Triethylamine | 0.50 mmol, 50 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-{4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-3-biphenylyl}propanamide | 42.4 mg, 56% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C(CN2CCOCC2)C2=CC=C(C=C2)C2=CC(=CC=C2)NC(CC)=O)C)C1)Cl | C32H34Cl2N4O5
